US07449461B2
(rac)-N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(7-oxa-bicyclo[2.2.1]hept-1-yl)-propionamide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine and 2-(7-oxa-bicyclo[2.2.1]hept-1-yl)-propionyl chloride, the title compound was obtained as white solid (67% yield). MS: m/e=418(M+H+), mp 195-197° C.

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | 2-(7-oxa-bicyclo[2.2.1]hept-1-yl)-propionyl chloride | C12(CCC(CC1)O2)C(C(=O)Cl)C | C9H13ClO2
product | (rac)-N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(7-oxa-bicyclo[2.2.1]hept-1-yl)-propionamide | COC1=CC=C(C2=C1N=C(S2)NC(C(C)C21CCC(CC2)O1)=O)N1CCOCC1 | C21H27N3O4S
